US04720493
To a solution of 40.3 g of 2-acetylaminomethyl-5-acetylthiophene in 500 ml of chloroform is added dropwise bromine under cooling with ice at 5°-10° C., and the mixture is stirred at room temperature for 30 minutes. After the resulting mixture is washed with water, dried over anhydrous magnesium sulfate and concentrated, the residue is recrystallized from ethanol to give 2-acetylaminomethyl-5-bromoacetylthiophene, melting at 129°-131° C.

reactant | 2-acetylaminomethyl-5-acetylthiophene | 40.3 g | C(C)(=O)NCC=1SC(=CC1)C(C)=O | C9H11NO2S
reactant | bromine | BrBr | Br2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-acetylaminomethyl-5-bromoacetylthiophene | C(C)(=O)NCC=1SC(=CC1)C(CBr)=O | C9H10BrNO2S
